US08080566B1
A 1000-mL 4-necked round-bottomed flask was charged with a solution of 2H-1,2,3-triazole (30 g, 434.78 mmol, 1.00 equiv) in benzene (500 mL). To this solution was added chlorotrimethylsilane (49.3 g, 456.48 mmol, 1.05 equiv) drop wise 0° C. followed by addition of triethylamine (48.3 g, 478.22 mmol, 1.10 equiv). The resulting solution was stirred for 16 hours at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. The crude product was purified by distillation and the fraction was collected at 140-150° C. affording 2-(trimethylsilyl)-2H-1,2,3-triazole as colorless oil (11 g, 18%). To a solution of 2-(trimethylsilyl)-2H-1,2,3-triazole (6.2 g, 43.97 mmol, 2.74 equiv) in DMF (100 mL) was added tert-butyl 3-(4-nitrophenylsulfonyloxy)piperidine-1-carboxylate (6.2 g, 16.06 mmol, 1.00 equiv). The resulting solution was refluxed for 3 hours. Upon completion, the mixture was cooled down to room temperature and concentrated on a rotary evaporator affording tert-butyl 3-(1H-1,2,3-triazol-1-yl)piperidine-1-carboxylate as brown solid (2.3 g).

reactant | 2-(trimethylsilyl)-2H-1,2,3-triazole | 43.97 mmol, 6.2 g, 2.74 equiv | C[Si](N1N=CC=N1)(C)C | C5H11N3Si
reactant | tert-butyl 3-(4-nitrophenylsulfonyloxy)piperidine-1-carboxylate | 16.06 mmol, 6.2 g, 1.00 equiv | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC1CN(CCC1)C(=O)OC(C)(C)C | C16H22N2O7S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-(1H-1,2,3-triazol-1-yl)piperidine-1-carboxylate | 2.3 g | N1(N=NC=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C12H20N4O2
